US05998433
b) Synthesis of N,N-dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.280 g (0.784 mmol) of 6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 20 ml of acetic acid, 0.106 ml (1.18 mmol) of 50% aqueous dimethylamine and 0.096 ml (1.18 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1) to yield the desired product.

reactant | 6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.784 mmol, 0.280 g | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)N1CC2=C(CC1)C=CO2 | C22H15NO4
reactant | dimethylamine | 1.18 mmol, 0.106 ml | CNC | C2H7N
reactant | formaldehyde | 1.18 mmol, 0.096 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3C(C4=CC=CC=C4C(C3C=C2)=O)=O)O1 | C25H22N2O4
